US05440044
914 mg of tetrabutylammonium fluoride is added to a solution of 500 mg of (5RS)-5-acetoxy-5-{3-[(1E,3E)-(5RS)-5-acetoxy-1,3-tridecadienyl]-phenyl}-pentan-1-ol-tert-butyldimethylsilylether in 28 ml of tetrahydrofuran at 0° C., stirred for 30 minutes at 0° C. and for 4.5 hours at 24° C. Then, it is diluted with ether, washed with brine, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue is chromatographed on silica gel. With hexane/0-20% ethyl acetate, 193 mg of (5RS)-5-acetoxy-5-{3-{(1E,3E)-(5RS)-5-acetoxy-1,3-tridecadienyl}-phenyl}-pentan-1-ol is obtained as colorless oil.

reactant | tetrabutylammonium fluoride | 914 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (5RS)-5-acetoxy-5-{3-[(1E,3E)-(5RS)-5-acetoxy-1,3-tridecadienyl]-phenyl}-pentan-1-ol tert-butyldimethylsilylether | 500 mg | C(C)(=O)OC(CCCCO)C1=CC(=CC=C1)\C=C\C=C\C(CCCCCCCC)OC(C)=O.[Si](C)(C)(C(C)(C)C)O[Si](C)(C)C(C)(C)C
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (5RS)-5-acetoxy-5-{3-{(1E,3E)-(5RS)-5-acetoxy-1,3-tridecadienyl}-phenyl}-pentan-1-ol | 193 mg | C(C)(=O)OC(CCCCO)C1=CC(=CC=C1)\C=C\C=C\C(CCCCCCCC)OC(C)=O | C28H42O5
